US05187161
In 500 ml of diethyl ether was suspended 18 g of lithium aluminum hydride followed by addition of a solution of 3,3-dimethyl-7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone (104 g) in diethyl ether (400 ml) over a period of 1 hour with stirring at ambient temperature. The mixture was further stirred at ambient temperature for 1 hour. The reaction mixture was held under cooling in an ice bath and 60 ml of ethyl acetate, 100 ml of water and 900 ml of 10% hydrochloric acid were successively added. After phase separation, the aqueous layer was extracted with ethyl acetate and the organic layers were pooled, washed with saturated aqueous, sodium chloride solution, dried over magnesium sulfate and concentrated. The resultant crude product was crystallized from hexane to give 100 g of 2-(1,1-dimethylethyl)-6-(1,1-dimethyl-2-hydroxyethyl)-4-methoxyphenol as colorless crystals.

reactant | lithium aluminum hydride | 18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,3-dimethyl-7-(1,1-dimethylethyl)-5-methoxy-2(3H)-benzofuranone | 104 g | CC1(C(OC2=C1C=C(C=C2C(C)(C)C)OC)=O)C | C15H20O3
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 900 ml | Cl | ClH
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-(1,1-dimethylethyl)-6-(1,1-dimethyl-2-hydroxyethyl)-4-methoxyphenol | 100 g | CC(C)(C)C1=C(C(=CC(=C1)OC)C(CO)(C)C)O | C15H24O3
